US07960552B2
To a solution of ethyl 5-cyclobutyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolecarboxylate (1.00 g, 2.93 mmol), in 2:1 tetrahydrofuran:methanol (15 mL) was added 1 N aqueous sodium hydroxide (4.40 mL, 4.40 mmol). The solution was heated in a microwave reactor to 120° C. for 500 seconds. Then 1 N aqueous hydrochloric acid (4.40 mL, 4.40 mmol) was added and the solution was concentrated. Water was added and the mixture was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, concentrated and dried under a nitrogen stream at 45° C. overnight to afford 5-cyclobutyl-3-(3,5-dichloro-4-pyridinyl) -4-isoxazolecarboxylic acid (808 mg, 88%). 1H-NMR (400 MHz, DMSO-d6) δ 13.34 (br s, 1H), 8.81 (s, 2H), 4.33-4.25 (m, 1H), 2.42-2.32 (m, 4H), 2.15-2.05 (m, 1H), 1.96-1.88 (m, 1H).

reactant | ethyl 5-cyclobutyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolecarboxylate | 2.93 mmol, 1.00 g | C1(CCC1)C1=C(C(=NO1)C1=C(C=NC=C1Cl)Cl)C(=O)OCC | C15H14Cl2N2O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 4.40 mmol, 1 N, 4.40 mL | [OH-].[Na+]
reactant | hydrochloric acid | 4.40 mmol, 1 N, 4.40 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 5-cyclobutyl-3-(3,5-dichloro-4-pyridinyl) -4-isoxazolecarboxylic acid | 808 mg, 88% | C1(CCC1)C1=C(C(=NO1)C1=C(C=NC=C1Cl)Cl)C(=O)O | C13H10Cl2N2O3
